scheMAGIC Simulator document 15f305396d7b4a6d
* document-hash 15f305396d7b4a6d
V1 vin 0 DC 12 $ component:c1
R2 vin vout 220 $ component:c2
D3 0 vout OC_GENERIC_D $ component:c3
R4 vout 0 1k $ component:c4
.model OC_GENERIC_D D(IS=1e-14 N=1 RS=0.1 CJO=2P)
.save all v1#branch @r2[i] @d3[id] @r4[i]
.dc V1 0 12 0.05
.end
