scheMAGIC Simulator document 54776847d296bf8a
* document-hash 54776847d296bf8a
V1 vin 0 DC 12 $ component:c1
R2 vin vout 220 $ component:c2
* catalog-only zener 3 awaiting its catalog package model $ component:c3
R4 vout 0 1k $ component:c4
.save all v1#branch @r2[i] @r4[i]
.dc V1 0 12 0.05
.end
